US04008250
Reaction of the 2-(4-carboxyphenyl)-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-4-carboxamide described above in Example 20BZ with methanol in the presence of a small amount of a mineral acid affords 2-(4-carbomethoxyphenyl)-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-4-carboxamide.

reactant | 2-(4-carboxyphenyl)-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-4-carboxamide | C(=O)(O)C1=CC=C(C=C1)N1C(=C2C(=C1C)C(CC2(C)C)(C(=O)N)C)C | C20H24N2O3
reactant | methanol | CO | CH4O
product | 2-(4-carbomethoxyphenyl)-2,4,5,6-tetrahydro-1,3,4,6,6-pentamethylcyclopenta[c]pyrrole-4-carboxamide | C(=O)(OC)C1=CC=C(C=C1)N1C(=C2C(=C1C)C(CC2(C)C)(C(=O)N)C)C | C21H26N2O3
